US08754089B2
3-(3,5-Difluorophenyl)-2-ethyl-6-fluoro-1-methylquinolin-4(1H)-one (120 mg, 0.38 mmol) and 1,3-dibromo-5,5-dimethylhydantoin (76 mg, 0.7 eq) were suspended in carbon tetrachloride (5 mL). To the mixture was added benzoyl peroxide (9.2 mg, 0.1 eq) and the mixture was heated at reflux for 3 h. After cooling to rt, satd. aq sodium bicarbonate solution (5 mL) was added. The layers were separated and the aq layer was extracted with DCM (3 mL×2). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concd under reduced pressure to give 2-(1-bromoethyl)-3-(3,5-difluorophenyl)-6-fluoro-1-methylquinolin-4(1H)-one as a yellow solid. Mass Spectrum (ESI) m/e=397 (M+1). The yellow solid was dissolved in DMF (5 mL) and treated with phthalimide potassium salt (140 mg, 2.0 eq) at 60° C. for 4 h. The reaction mixture was partitioned between water and EtOAc, The layers were separated and the aq layer was extracted with EtOAc (10 mL×2). The combined organic layers were washed with water (10 mL×2), brine (10 mL), dried over Na2SO4, filtered, and concd under reduced pressure. The residue was purified by combiflash on silica gel (DCM/hexane, 0/1 to 1/1) to give 2-(1-(3-(3,5-difluorophenyl)-6-fluoro-1-methyl-4-oxo-1,4-dihydroquinolin-2-yl)ethyl)isoindoline-1,3-dione as a white solid. Mass Spectrum (ESI) m/e=463 (M+1).

reactant | 3-(3,5-Difluorophenyl)-2-ethyl-6-fluoro-1-methylquinolin-4(1H)-one | 0.38 mmol, 120 mg | FC=1C=C(C=C(C1)F)C1=C(N(C2=CC=C(C=C2C1=O)F)C)CC | C18H14F3NO
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 76 mg, 0.7 eq | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | benzoyl peroxide | 9.2 mg, 0.1 eq | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-bromoethyl)-3-(3,5-difluorophenyl)-6-fluoro-1-methylquinolin-4(1H)-one | BrC(C)C=1N(C2=CC=C(C=C2C(C1C1=CC(=CC(=C1)F)F)=O)F)C | C18H13BrF3NO
